US06528510B1
Toluene-4-thiosulfonic acid S-(4,5-diamino-2-tert-butyl-phenyl) ester
The title compound was prepared as described in Example VV-1 from toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-tert-butyl-phenyl) ester (prepared in Example UU-2; 15 g, 28 mmol), CH2Cl2 (100 mL), and HCl gas. MS(APCI): 351 (M+H).

reactant | toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-tert-butyl-phenyl) ester | 28 mmol, 15 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1NC(=O)OC(C)(C)C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C27H38N2O6S2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-thiosulfonic acid S-(4,5-diamino-2-tert-butyl-phenyl) ester | NC1=CC(=C(C=C1N)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C17H22N2O2S2
